US07452892B2
C. Preparation of 1,3-dibenzyl-5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione
To a solution of 1,3-dibenzyl-5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione (6.0 g, 14.8 mmol) in toluene (50 mL) at room temperature under argon was added 4-chlorophenylboronic acid (7.0 g, 44.77 mmol), tetrakis(triphenylphosphine)palladium (1.03 g, 0.89 mmol), and a solution of Na2CO3 (4.7 g, 44.34 mmol) in water (10 ml). The resulting suspension was stirred at reflux under argon for 6 h. After the reaction mixture was cooled to room temperature, water (50 mL) and EtOAc (75 mL) were added. The layers were separated. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography eluted 15% ethyl acetate-hexanes to obtain 7.2 g of the title compound as a white solid. HPLC/MS (MeOH-water with 10 mM NH4OAc): retention time=4.241 min, [M+H]30 =513.

reactant | 1,3-dibenzyl-5-bromo-6-chloropyrimidine-2,4(1H,3H)-dione | 14.8 mmol, 6.0 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1Cl)Br)=O)CC1=CC=CC=C1)=O | C18H14BrClN2O2
reactant | 4-chlorophenylboronic acid | 44.77 mmol, 7.0 g | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | Na2CO3 | 44.34 mmol, 4.7 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 10 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.89 mmol, 1.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 50 mL | O | H2O
product | 1,3-dibenzyl-5,6-bis(4-chlorophenyl)pyrimidine-2,4(1H,3H)-dione | 7.2 g | C(C1=CC=CC=C1)N1C(N(C(C(=C1C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)=O)CC1=CC=CC=C1)=O | C30H22Cl2N2O2
